US05892040
A solution of 1.81 g (10 mmol) of dicyclohexylamine was added to a solution of 0.98 g (10 mmol) of propiolic acid ethyl ester in 4 ml of toluene, and the mixture was stirred for 6 hours at room temperature. The resulting yellow solution of 3-(dicyclohexylamino) acrylic acid ethyl ester was heated to 100° C., 0.98 g (9.6 mmol) of triethylaimine were added and the mixture heated to reflux. With stirring a solution of 1.93 g (9.1 mmol) of 2,3,4,5-tetrafluorobenzoic acid chloride in 10 ml of toluene was added in the course of 10 min. The brown suspension was filtered hot and the filter residue washed twice with 15 ml of toluene. The united filtrates containing the so formed 3-(dicyclohexyl-amino)-2-(2,3,4,5-tetrafluorobenzoyl)acrylic acid ethyl ester were stirred for 160 hours at room temperature with 7.41 g (100 mmol) of N-amino-N-methylformamide. The resulting brown suspension was dissolved in 200 ml of dichloromethane, extracted with 50 ml of 1N aqueous hydrochloric acid, and the aqueous extracts washed twice with each 50 ml of dichloromethane. The organic phases were united, dried over magnesium sulphate, filtered and evaporated at 45° C./30 torr. The light-brown, oily residue (4.65 g) was suspended in 10 ml of tert.-butyl methyl ether, digested intensely for 30 min., the crystals filtered, washed twice with each 5 ml of tert.-butyl methyl ether and dried at 25° C./33 torr. There were obtained 1.91 g (64%) of 3-(2-formyl-2-methylhydrazino)-2-(2,3,4,5-tetrafluorobenzoyl)acrylic acid ethyl ester as a white powder of mp 189°.

reactant | dicyclohexylamine | 10 mmol, 1.81 g | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | propiolic acid ethyl ester | 10 mmol, 0.98 g | C(C)OC(C#C)=O | C5H6O2
reactant | 3-(dicyclohexylamino) acrylic acid ethyl ester | C(C)OC(C=CN(C1CCCCC1)C1CCCCC1)=O | C17H29NO2
reactant | 2,3,4,5-tetrafluorobenzoic acid chloride | 9.1 mmol, 1.93 g | FC1=C(C(=O)Cl)C=C(C(=C1F)F)F | C7HClF4O
reactant | N-amino-N-methylformamide | 100 mmol, 7.41 g | NN(C=O)C | C2H6N2O
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 3-(2-formyl-2-methylhydrazino)-2-(2,3,4,5-tetrafluorobenzoyl)acrylic acid ethyl ester | 1.91 g, 64% | C(C)OC(C(=CNN(C)C=O)C(C1=C(C(=C(C(=C1)F)F)F)F)=O)=O | C14H12F4N2O4
